US04734416
2.4 Grams of 4-methyl-7-(2,3-epoxypropoxy)carbostyril and 1.8 g of 4-phenylpiperazine are mixed with 30 ml of ethanol and heated for 3 hours under refluxing conditions. After cooling the reaction mixture, crystals thus precipitated are collected by filtration and washed with ether. The crude crystals thus obtained are dissolved in 50 ml of methanol and 3 ml of concentrated hydrochloric acid. The mixture then is concentrated under reduced pressure to dryness. The residue thus obtained is recrystallized from ethanol-ether to obtain 2.7 g (yield: 63%) of 4-methyl-7-[2-hydroxy-3-(4-phenylpiperazinyl)propoxy]carbostyril monohydrochloride in the form of colorless crystals with a melting point of 190°-191° C.

reactant | 4-methyl-7-(2,3-epoxypropoxy)carbostyril | CC1=CC(NC2=CC(=CC=C12)OCC1CO1)=O | C13H13NO3
reactant | 4-phenylpiperazine | 1.8 g | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
reactant | ethanol | 30 ml | C(C)O | C2H6O
reactant | hydrochloric acid | 3 ml | Cl | ClH
solvent | methanol | 50 ml | CO | CH4O
product | 4-methyl-7-[2-hydroxy-3-(4-phenylpiperazinyl)propoxy]carbostyril monohydrochloride | 2.7 g, yield: 63% | Cl.CC1=CC(NC2=CC(=CC=C12)OCC(CN1CCN(CC1)C1=CC=CC=C1)O)=O | InChI=1S/C23H27N3O3.ClH/c1-17-13-23(28)24-22-14-20(7-8-21(17)22)29-16-19(27)15-25-9-11-26(12-10-25)18-5-3-2-4-6-18;/h2-8,13-14,19,27H,9-12,15-16H2,1H3,(H,24,28);1H
